US07435815B2
N,N-Diethyl-2-[(4-ethyl-benzenesulfonyl)-phenyl-amino]-acetamide
prepared by reaction of 2-bromoacetyl bromide with diethylamine, aniline and 4-ethyl-benzenesulfonyl chloride

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | diethylamine | C(C)NCC | C4H11N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 4-ethyl-benzenesulfonyl chloride | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
product | N,N-Diethyl-2-[(4-ethyl-benzenesulfonyl)-phenyl-amino]-acetamide | C(C)N(C(CN(C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)CC)=O)CC | C20H26N2O3S
